US06812352B2
Salicylaldehyde (244 g, 2.0 mol);
1,3-propanediol (228 g, 3.0 mol), and oxalic acid (4.5 g, 0.05 mol) were added to 400 mL toluene and heated to reflux for 8 hours in an apparatus equipped with a condenser and a Dean-Stark trap. After cooling, the solution was washed with NaHCO3 and distilled water, and the solution was dried over MgSO4. The product precipitated when the solvent was being evaporated. The solid was collected and dissolved in hot hexane. The solution was filtered through Celite® (a filter aid manufactured by Johns Manville Corp.), and the product was crystallized to give 108 g of an off-white solid.

reactant | 1,3-propanediol | 3.0 mol, 228 g | C(CCO)O | C3H8O2
reactant | oxalic acid | 0.05 mol, 4.5 g | C(C(=O)O)(=O)O | C2H2O4
reactant | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | Salicylaldehyde | 108 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
